US08420647B2
c) (5-Chloro-4-fluoro-2-nitro-phenyl)-cyclopropyl-methyl-amine
To a solution of 500 mg (2.17 mmol) (5-chloro-4-fluoro-2-nitro-phenyl)-cyclopropyl-amine (J. Med. Chem. 1992, 35(8), 1385) in 5 mL N,N-dimethylformamide was added 104 mg (2.385 mmol) sodium hydride (60% dispersion in mineral oil) and 339 mg (2.385 mmol) methyl iodide. The reaction mixture was stirred for 6 hours at room temperature and then poured on 30 mL 10% aqueous sodium bicarbonate solution and 30 mL ethyl acetate. The layers were separated and the aqueous layer was extracted a second time with 30 mL ethyl acetate. The organic layers were washed with 30 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue was purified by silica gel chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate 100:0 to 80:20) to give 433 mg (82%) of the desired compound as a yellow oil. MS (ESI): m/z=245.049 [M+H]+.

reactant | (5-chloro-4-fluoro-2-nitro-phenyl)-cyclopropyl-amine | 2.17 mmol, 500 mg | ClC=1C(=CC(=C(C1)NC1CC1)[N+](=O)[O-])F | C9H8ClFN2O2
reactant | sodium hydride | 2.385 mmol, 104 mg | [H-].[Na+]
reactant | methyl iodide | 2.385 mmol, 339 mg | CI | CH3I
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (5-Chloro-4-fluoro-2-nitro-phenyl)-cyclopropyl-methyl-amine | 433 mg, 82% | ClC=1C(=CC(=C(C1)N(C)C1CC1)[N+](=O)[O-])F | C10H10ClFN2O2
